US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-pyridinylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method same as for preparation 10 using tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (210 mg, 057 mmol) and 2-pyridinesulphonylchloride (J. Med. Chem; 1997, 40, 1149) (170 mg, 0.96 mmol) as starting materials.

reactant | tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 210 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | 2-pyridinesulphonylchloride | 0.96 mmol, 170 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-pyridinylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNS(=O)(=O)C1=NC=CC=C1 | C24H36N4O5S
